US09108939B2
B: 2-(4-((4-((4-Aminophenyl)(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (1.948 mmol, 0.657 g), N1-methyl-N1-(piperidin-4-yl)benzene-1,4-diamine (1.948 mmol, 0.4 g) and potassium carbonate (5.84 mmol, 0.808 g) were combined and stirred at room temperature for 1 hour in acetonitrile (50 mL). The reaction mixture was filtered and concentrated under vacuum. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer was separated, dried and concentrated under vacuum. The residue was purified by silica column chromatography (eluent: dichloromethane to 8% methanol in dichloromethane) to afford the title compound (260 mg). MS (ESI) m/z 462.4 [M+H]+

reactant | 2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 1.948 mmol, 0.657 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | N1-methyl-N1-(piperidin-4-yl)benzene-1,4-diamine | 1.948 mmol, 0.4 g | CN(C1=CC=C(C=C1)N)C1CCNCC1 | C12H19N3
reactant | potassium carbonate | 5.84 mmol, 0.808 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(4-((4-((4-Aminophenyl)(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 260 mg | NC1=CC=C(C=C1)N(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C22H25F6N3O
